US06897224B2
300 mg of 4-(7-bromo-1,3-benzodioxol-4-yl)-4-methyl-2-oxo-valeric acid and 0.1 ml of sulfuric acid (96%) in 5 ml of ethanol are heated for 4 hours to 70° C. Then, the batch is concentrated by evaporation in a vacuum and added to water. It is extracted with ethyl acetate, washed with brine, dried and concentrated by evaporation in a vacuum. 272 mg of 4-(7-bromo-1,3-benzodioxol-4-yl)-4-methyl-2-oxo-valeric acid-ethyl ester is obtained as a yellow oil. This ester and 0.32 ml of trifluoromethyl-trimethylsilane in 4 ml of THF are mixed with 0.14 ml of a tetrabutylammonium fluoride solution (1 M in THF) at −70° C. It is stirred for 1 hour at 70° C, for 1.5 hours at −10° C., for 1 hour at 0° C. and for 2 hours at room temperature. Another spatula-tip full of tetrabutylammonium fluoride is added, and after stirring is continued for 20 minutes, it is added to water. It is extracted with ethyl acetate, washed with water, dried with sodium sulfate and concentrated by evaporation in a vacuum. 297 mg of 4-(7-bromo-1,3-benzodioxol-4-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid-ethyl ester is obtained as a yellow oil. This oil is mixed in 5 ml of ether at 0° C. with 29 mg of lithium aluminum hydride, and stirred for 1 hour at 0° C. and for another 10 hours at room temperature. The batch is added to dilute hydrochloric acid, extracted with ethyl acetate, washed with water, dried with sodium sulfate and concentrated by evaporation in a vacuum. 164 mg of 4-(7-bromo-1,3-benzodioxol-4-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentan-1-ol is obtained as a yellow oil.

reactant | 4-(7-bromo-1,3-benzodioxol-4-yl)-4-methyl-2-oxo-valeric acid | 300 mg | BrC1=CC=C(C2=C1OCO2)C(CC(C(=O)O)=O)(C)C | C13H13BrO5
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(7-bromo-1,3-benzodioxol-4-yl)-4-methyl-2-oxo-valeric acid-ethyl ester | 272 mg | C(C)OC(C(CC(C)(C)C1=CC=C(C=2OCOC21)Br)=O)=O | C15H17BrO5
